US08242133B2
A mixture of 0.39 g of 2-(3-iodopyridin-4-yl)-5-(trifluoromethyl)benzoxazole, 0.18 g of copper (I) cyanide and 2 ml of 1-methyl-2-pyrrolidinone was stirred while heating at 80° C. for 2 hours. Water and ethyl acetate were poured into the reaction mixture, which was filtered through Celite™. The resultant filtrate was washed with a saturated sodium chloride solution, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 0.11 g of 2-(3-cyanopyridin-4-yl)-5-(trifluoromethyl)benzoxazole (hereinafter, referred to as “active compound 31”).

reactant | 2-(3-iodopyridin-4-yl)-5-(trifluoromethyl)benzoxazole | 0.39 g | IC=1C=NC=CC1C=1OC2=C(N1)C=C(C=C2)C(F)(F)F | C13H6F3IN2O
reactant | copper (I) cyanide | 0.18 g | [Cu]C#N
reactant | 1-methyl-2-pyrrolidinone | 2 ml | CN1C(CCC1)=O | C5H9NO
reactant | Water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(3-cyanopyridin-4-yl)-5-(trifluoromethyl)benzoxazole | 0.11 g | C(#N)C=1C=NC=CC1C=1OC2=C(N1)C=C(C=C2)C(F)(F)F | C14H6F3N3O
